US07053089B2
(7-Methyl-7H-purin-6-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 85 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 6-chloro-7-methyl-7H-purine (6-chloro-7-methyl-7H-purine was prepared according to G. B. Eilon, J. Org. Chem., 27:2478–2491 (1962): MS (m+1)=415.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 6-chloro-7-methyl-7H-purine | ClC1=C2N(C=NC2=NC=N1)C | C6H5ClN4
product | (7-Methyl-7H-purin-6-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | CN1C=NC2=NC=NC(=C12)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C20H26N6O2S
